US07592358B2
16.1e. 3-bromo-5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine
The product was prepared analogously to Example 7.1b starting from 2,3-dibromo-5-(4-chlorophenyl)pyridine and trimethylsilylacetylene. Yield: 1.00 g (95% of theoretical); C16H15BrClNSi (M=364.739); calc.: molpeak (M+H)+: 364/366/368 (BrCl); found: molpeak (M+H)+: 364/366/368 (BrCl).

reactant | 2,3-dibromo-5-(4-chlorophenyl)pyridine | BrC1=NC=C(C=C1Br)C1=CC=C(C=C1)Cl | C11H6Br2ClN
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | BrCl | BrCl | BrCl
product | 3-bromo-5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridine | BrC=1C(=NC=C(C1)C1=CC=C(C=C1)Cl)C#C[Si](C)(C)C | C16H15BrClNSi
